US09238656B2
Synthesis of (1S,2S,3R,4R)-3-[6-Bromo-2-(4-dimethylamino-2-methoxy-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound LXXXIV)
In a similar fashion to Compound LXXVI, (1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (40.0 mg, 0.118 mmol) and 4-dimethylamino-2-methoxy-benzaldehyde (23.3 mg, 0.130 mmol) were reacted to produce 25 mg (43%) of the title compound. mp: 218-220° C., 1H NMR (300 MHz, DMSO-d6): 13.00 (s, 1H), 8.24 (s, 1H), 8.00 (s, 1H), 7.96 (s, 1H), 7.73 (s, 1H), 6.99 (d, J=8 Hz, 2H), 6.43 (br s, 1H), 6.33 (br s, 1H), 5.16 (t, J=8 Hz, 1H), 3.94 (s, 3H), 2.87 (s, 1H), 2.73 (s, 1H), 2.59 (d, J=7 Hz, 1H), 2.23 (d, J=8 Hz, 1H), 1.90 (s, 1H), 1.37 (d, J=8 Hz, 1H). MS: 497, 499 (M+H), HPLC: 2.65 min (G method).

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.118 mmol, 40.0 mg | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Br | C13H16BrN5O
reactant | 4-dimethylamino-2-methoxy-benzaldehyde | 0.130 mmol, 23.3 mg | CN(C1=CC(=C(C=O)C=C1)OC)C | C10H13NO2
product | (1S,2S,3R,4R)-3-[6-Bromo-2-(4-dimethylamino-2-methoxy-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 25 mg, 43% | BrC=1C(=C2C(=NC1)NC(=N2)C2=C(C=C(C=C2)N(C)C)OC)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C23H25BrN6O2
